Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
F[c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[cH:8][c:9]1[F:10].[CH3:11][CH2:12][O:13][C:14](=[O:15])[c:16]1[o:17][c:18]2[cH:19][cH:20][n:21][cH:22][c:23]2[c:24]1[OH:25]>>[c:1]1([O:25][c:24]2[c:16]([C:14]([O:13][CH2:12][CH3:11])=[O:15])[o:17][c:18]3[cH:19][cH:20][n:21][cH:22][c:23]23)[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[cH:8][c:9]1[F:10],[CH3:11][CH2:12][O:13][C:14](=[O:15])[c:16]1[o:17][c:18]2[cH:19][cH:20][n:21][cH:22][c:23]2[c:24]1[OH:25].[F:101][c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[cH:8][c:9]1[F:10].[H-:301].[Na+]>>[c:1]1([O:25][c:24]2[c:16]([C:14]([O:13][CH2:12][CH3:11])=[O:15])[o:17][c:18]3[cH:19][cH:20][n:21][cH:22][c:23]23)[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[cH:8][c:9]1[F:10],SNAr_alco(thi)ol(para),"[(301, 25.1), ([25.1, 25], 25), (25, 1), ([1, 9], [9, 8]), ([8, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 8]), ([8, 9], [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH:3]1[CH2:4][CH2:5][CH2:6][c:7]2[c:8]([O:9][CH2:10][c:11]3[cH:16][cH:15][cH:14][cH:13][cH:12]3)[cH:17][cH:18][cH:19][c:20]21.[CH3:21][CH:22]([CH3:23])[c:24]1[cH:25][cH:26][c:27]([NH:28][CH2:29][c:30]2[cH:31][cH:32][c:33]([O:34][CH2:35][c:36]3[cH:37][cH:38][cH:39][cH:40][cH:41]3)[c:42]([O:43][CH2:44][c:45]3[cH:46][cH:47][cH:48][cH:49][cH:50]3)[cH:51]2)[cH:52][cH:53]1>>[C:1](=[O:2])([CH:3]1[CH2:4][CH2:5][CH2:6][c:7]2[c:8]([O:9][CH2:10][c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)[cH:17][cH:18][cH:19][c:20]21)[N:28]([c:27]1[cH:26][cH:25][c:24]([CH:22]([CH3:21])[CH3:23])[cH:53][cH:52]1)[CH2:29][c:30]1[cH:31][cH:32][c:33]([O:34][CH2:35][c:36]2[cH:37][cH:38][cH:39][cH:40][cH:41]2)[c:42]([O:43][CH2:44][c:45]2[cH:46][cH:47][cH:48][cH:49][cH:50]2)[cH:51]1,[CH3:21][CH:22]([CH3:23])[c:24]1[cH:25][cH:26][c:27]([NH:28][CH2:29][c:30]2[cH:31][cH:32][c:33]([O:34][CH2:35][c:36]3[cH:37][cH:38][cH:39][cH:40][cH:41]3)[c:42]([O:43][CH2:44][c:45]3[cH:46][cH:47][cH:48][cH:49][cH:50]3)[cH:51]2)[cH:52][cH:53]1.[OH:101][C:1](=[O:2])[CH:3]1[CH2:4][CH2:5][CH2:6][c:7]2[c:8]([O:9][CH2:10][c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)[cH:17][cH:18][cH:19][c:20]21.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH:3]1[CH2:4][CH2:5][CH2:6][c:7]2[c:8]([O:9][CH2:10][c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)[cH:17][cH:18][cH:19][c:20]21)[N:28]([c:27]1[cH:26][cH:25][c:24]([CH:22]([CH3:21])[CH3:23])[cH:53][cH:52]1)[CH2:29][c:30]1[cH:31][cH:32][c:33]([O:34][CH2:35][c:36]2[cH:37][cH:38][cH:39][cH:40][cH:41]2)[c:42]([O:43][CH2:44][c:45]2[cH:46][cH:47][cH:48][cH:49][cH:50]2)[cH:51]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (28, 1), ([1, 2], 2), (303, 28.1), ([28.1, 28], 28), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[C@@H:3]1[CH2:4][CH2:5][CH2:6][N:7]1[C:8](=[O:9])[O:10][CH2:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1.[CH3:18][NH:19][CH3:20]>>[C:1](=[O:2])([C@@H:3]1[CH2:4][CH2:5][CH2:6][N:7]1[C:8](=[O:9])[O:10][CH2:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[N:19]([CH3:18])[CH3:20],[OH:101][C:1](=[O:2])[C@@H:3]1[CH2:4][CH2:5][CH2:6][N:7]1[C:8](=[O:9])[O:10][CH2:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1.[CH3:18][NH:19][CH3:20].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([C@@H:3]1[CH2:4][CH2:5][CH2:6][N:7]1[C:8](=[O:9])[O:10][CH2:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[N:19]([CH3:18])[CH3:20],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (19, 1), ([1, 2], 2), (303, 19.1), ([19.1, 19], 19), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
